US04446141
A mixture of 16.5 g of 3,4-methylenedioxyphenylethylamine and 40.5 g of ethyl acrylate is refluxed for 24 hours over an oil bath. After cooling, the mixture is concentrated under reduced pressure to distill away excess ethyl acrylate. 16 g of N,N-bis (β-ethoxycarbonylethyl)-3,4-methylenedioxyphenylethylamine is obtained as the residue.

reactant | 3,4-methylenedioxyphenylethylamine | 16.5 g | C1OC=2C=C(C=CC2O1)CCN | C9H11NO2
reactant | ethyl acrylate | 40.5 g | C(C=C)(=O)OCC | C5H8O2
product | N,N-bis (β-ethoxycarbonylethyl)-3,4-methylenedioxyphenylethylamine | 16 g | C(C)OC(=O)CCN(CCC(=O)OCC)CCC1=CC2=C(C=C1)OCO2 | C19H27NO6
